US07396847B2
(5R)-5-(Azidomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one
[(5R)-3-(4-Iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate (27 g, 68 mmol) was dissolved in dimethylacetamide (300 ml). Sodium azide (13.1 g, 202 mmol) was carefully added, and the solution was heated to 80° C. for 3 h. After cooling to room temperature, the mixture was diluted with ethyl acetate (500 ml), washed with water (2×), brine, and dried over sodium sulfate. Flash chromatography with 0-1% methanol in dichloromethane as eluent gave the desired product (19 g).

reactant | [(5R)-3-(4-Iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate | 68 mmol, 27 g | CS(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C11H12INO5S
reactant | Sodium azide | 202 mmol, 13.1 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylacetamide | 300 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (5R)-5-(Azidomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one | 19 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C10H9IN4O2
